US05131947
Synthesis of 4-ethyl-3-(4-fluorophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone (Compound Nos. & 4)
N-(2-Butenyl)-N-(3-trifluoromethylphenyl)-2-bromo-2-(4-fluorophenyl)acetamide (1.9 g) was added to 20 ml of toluene, followed by the addition of 1.2 ml of tributyltin hydride and an extremely small amount of α,α-azobisisobutyronitrile (AIBN) under stirring at 70° C. After the reaction mixture was continuously stirred for 1 hour, 60 ml of 20% hydrochloric acid were added, followed by extraction with toluene. After the extract was dried over anhydrous sodium sulfate, the extract was concentrated in an evaporator and then subjected to chromatography on a silica gel column. The 3,4-trans isomer (0.9 g) and the 3,4-cis isomer (0.27 g) were obtained.

reactant | N-(2-Butenyl)-N-(3-trifluoromethylphenyl)-2-bromo-2-(4-fluorophenyl)acetamide | 1.9 g | C(C=CC)N(C(C(C1=CC=C(C=C1)F)Br)=O)C1=CC(=CC=C1)C(F)(F)F | C19H16BrF4NO
reactant | tributyltin hydride | 1.2 ml | C(CCC)[SnH](CCCC)CCCC
reactant | α,α-azobisisobutyronitrile | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-ethyl-3-(4-fluorophenyl)-1-(3-trifluoromethylphenyl)-2-pyrrolidinone | C(C)C1C(C(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C=C1)F | C19H17F4NO
